US08558014B2
3-(Methylamino)-1-(thiophen-2-yl)propan-1-ol (I, R1=thiophen-2-yl, R2=methyl)
To a mixture of 3-(methylamino)-1-(thiophen-2-yl)propan-1-one hydrochloride (10.3 g, 50 mmol) and ethanol (35 mL) at 4° C. sodium hydroxide (4.0 g of a 50% aqueous solution) was added in about 5 minutes. Afterwards, neat sodium borhydride (0.95 g, 25 mmol, 1.0 eq) was added in several portions in about 30 minutes. At the end of the addition, the suspension was stirred for 4 h at the same temperature, then acetone (10.0 mL) was added dropwise in 5 minutes and the mixture was stirred for 10 additional minutes. Water (20 mL) was then added. Afterwards, the mixture was concentrated about 5 times under vacuum and the residue was extracted with tert-butyl methyl ether (2×20 mL). The collected organic phases were finally concentrated under vacuum affording an orange oil which crystallised spontaneously after a few hours. Finally, an orange solid was obtained (7.2 g, 84% yield). This compound can then be used without further purification.

reactant | 3-(methylamino)-1-(thiophen-2-yl)propan-1-one hydrochloride | 50 mmol, 10.3 g | Cl.CNCCC(=O)C=1SC=CC1
reactant | ethanol | 35 mL | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | Water | 20 mL | O | H2O
solvent | acetone | 10.0 mL | CC(=O)C | C3H6O
product | 3-(Methylamino)-1-(thiophen-2-yl)propan-1-ol | 84% yield | CNCCC(O)C=1SC=CC1 | C8H13NOS
